US08748434B2
a) 3-(Morpholine-4-sulfonyl)-5-trifluoromethyl-benzoic acid
To a solution of 3-(morpholine-4-sulfonyl)-5-trifluoromethyl-benzoic acid methyl ester (1.04 g, 2.94 mmol) in dioxane (10 mL) was added water (10 mL) and lithium hydroxide monohydrate (154 mg, 3.68 mmol) and the resulting clear solution was stirred at room temperature for 2 hours. The reaction mixture was poured on 1M aqueous hydrochloric acid (100 mL) and 100 mL ethyl acetate and the layers were separated. The aqueous layer was extracted a second time with ethyl acetate (100 mL). The organic layers were washed with brine (100 mL), dried over magnesium sulfate, filtered and concentrated under vacuum to give the desired compound as a colorless solid (1 g, 100%) which was pure for the next step without further purification. MS (ESI−): m/z=338.033 ([M−H]−).

reactant | 3-(morpholine-4-sulfonyl)-5-trifluoromethyl-benzoic acid methyl ester | 2.94 mmol, 1.04 g | COC(C1=CC(=CC(=C1)C(F)(F)F)S(=O)(=O)N1CCOCC1)=O | C13H14F3NO5S
reactant | water | 10 mL | O | H2O
reactant | lithium hydroxide monohydrate | 3.68 mmol, 154 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1M, 100 mL | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(Morpholine-4-sulfonyl)-5-trifluoromethyl-benzoic acid | 1 g, 100% | N1(CCOCC1)S(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C12H12F3NO5S
